US07671080B2
3-Methyl-2-butene-1-amine hydrochloride (2.86 g, 0.02 mmoles) was dissolved in 5% aqueous sulfuric acid (25 ml) and heated to 90° C. for 18 h. The solvent was removed under reduced pressure yielding 4-amino-2-methyl-butan-2-ol sulfate as a yellow oil (4.73 g, 85%).

reactant | 3-Methyl-2-butene-1-amine hydrochloride | 0.02 mmoles, 2.86 g | Cl.CC(=CCN)C
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
product | 4-amino-2-methyl-butan-2-ol sulfate | 4.73 g, 85% | S(=O)(=O)(O)OC(C)(CCN)C | C5H13NO4S
